US06689806B1
A mixture of 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (89 mg, 0.5 mmol), 6-methyl-2-pyridine-carbaldehyde (61 mg, 0.5 mmol) and piperidine (0.1 mL) in 1.0 mL of ethanol was heated at 100° C. for 1 hour and cooled to room temperature. The precipitate was filtered and recrystallized from ethyl acetate and hexanes to give 4-(2-hydroxy-ethyl)-3-(6-methyl-pyridin-2-ylmethylene)-1,3-dihydro-indol-2-one as a yellow solid.

reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 0.5 mmol, 89 mg | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | 6-methyl-2-pyridine-carbaldehyde | 0.5 mmol, 61 mg | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 4-(2-hydroxy-ethyl)-3-(6-methyl-pyridin-2-ylmethylene)-1,3-dihydro-indol-2-one | OCCC1=C2C(C(NC2=CC=C1)=O)=CC1=NC(=CC=C1)C | C17H16N2O2
